US08895547B2
C-(3-Bromophenyl)-N,N-bis(2,4-dimethoxybenzyl)methanesulfonamide
While cooling with ice, 4.94 g of 3-bromobenzylsulfonyl chloride were initially charged in 60 ml of dichloromethane and, within 15 minutes, a solution of 5.64 g of bis(2,4-dimethoxybenzyl)amine in 30 ml of dichloromethane and then a solution of 3.82 ml of N,N-diisopropylethylamine in 5 ml of dichloromethane were added dropwise. The reaction mixture was allowed to come to room temperature and stirred for 1 hour. Subsequently, the mixture was washed with 50 ml of water, with 50 ml of 1 N aqueous hydrochloric acid, with 50 ml of saturated aqueous sodium hydrogencarbonate solution and finally with 50 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (9.23 g) with a molecular weight of 550.5 g/mol (C25H28BrNO6S).

reactant | 3-bromobenzylsulfonyl chloride | 4.94 g | BrC=1C=C(CS(=O)(=O)Cl)C=CC1 | C7H6BrClO2S
reactant | bis(2,4-dimethoxybenzyl)amine | 5.64 g | COC1=C(CNCC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C18H23NO4
reactant | N,N-diisopropylethylamine | 3.82 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | C-(3-Bromophenyl)-N,N-bis(2,4-dimethoxybenzyl)methanesulfonamide | 9.23 g | BrC=1C=C(C=CC1)CS(=O)(=O)N(CC1=C(C=C(C=C1)OC)OC)CC1=C(C=C(C=C1)OC)OC | C25H28BrNO6S
